US09169254B2
Ethyl-2-bromoisobutyric acid (3.7 ml, 24.99 mmol) and sodium bicarbonate (630 mg, 7.49 mmol) were added to 4-bromo-3,5-dimethyl-aniline (500 mg, 2.49 mmol), and the mixture was irradiated with microwaves at 130° C. for 15 minutes. The reaction mixture was diluted with ethyl acetate, and the organic layer was sequentially washed with water and saturated brine and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give ethyl 2-[(4-bromo-3,5-dimethyl-phenyl)amino]-2-methyl-propanoate (230 mg, 29%).

reactant | Ethyl-2-bromoisobutyric acid | 24.99 mmol, 3.7 ml | C(C)CC(C(=O)O)(C)Br | C6H11BrO2
reactant | sodium bicarbonate | 7.49 mmol, 630 mg | C([O-])(O)=O.[Na+]
reactant | 4-bromo-3,5-dimethyl-aniline | 2.49 mmol, 500 mg | BrC1=C(C=C(N)C=C1C)C | C8H10BrN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-[(4-bromo-3,5-dimethyl-phenyl)amino]-2-methyl-propanoate | 230 mg, 29% | BrC1=C(C=C(C=C1C)NC(C(=O)OCC)(C)C)C | C14H20BrNO2
